US06150373
A solution of 50 mg (0.07 mmol) of 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one in 5 ml of ethanol was treated with 0.5 ml of hydrazine hydrate. After 18 hours the mixture was evaporated and the product purified by column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (60:18:2:3) for the elution. Product-containing fractions were combined, evaporated and the residue evaporated with toluene. The residue was then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated. The residue was triturated with pentane and filtered to give 10 mg (23%) of 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-[3-(2-aminoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 108° C.

reactant | 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.07 mmol, 50 mg | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C1=CC(=CC=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C40H37Cl2N7O4
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(2,4-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-[3-(2-aminoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 10 mg, 23% | ClC1=C(C=CC(=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C1=CC(=CC=C1)CCN)=O | C32H35Cl2N7O2
